US05248825
Step c: 1-Phenyl-3-(3-benzyloxyphenyl)-2-propyne-1-one
Place lithium hexamethyldisilazane (15 mL of a 1M solution in tetrahydrofuran, 15 mmol) and tetrahydrofuran (75 mL) under an argon atmosphere and cool with an ice-water bath. Add, by dropwise addition, a solution of 3-benzyloxyphenylacetylene (3.13 g, 15 mmol) in tetrahydrofuran. Stir at 0° C. for 45 minutes, then add, by dropwise addition, N-methoxy-N-methylbenzamide (2.45 mL, 16 mmol). Remove the cooling bath and stir at room temperature for 1 hour. Partition between ethyl ether and water, separate the organic phase and dry (MgSO4). Filter and evaporate the solvent in vacuo to yield a crude solid. Recrystallize (hexane/ethyl acetate) to yield 2.67 g (57%) of the title compound; mp 75°-77° C.

reactant | lithium hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | 3-benzyloxyphenylacetylene | 15 mmol, 3.13 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C#C | C15H12O
reactant | N-methoxy-N-methylbenzamide | 16 mmol, 2.45 mL | CON(C(C1=CC=CC=C1)=O)C | C9H11NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 1-Phenyl-3-(3-benzyloxyphenyl)-2-propyne-1-one | 2.67 g, 57% | C1(=CC=CC=C1)C(C#CC1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C22H16O2
